US08748434B2
a) [6-Chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-yl]-methyl-amine
To a solution of 6-chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-ylamine (300 mg, 1.18 mmol) in trimethyl orthoformate (1.00 g, 1.04 mL, 9.46 mmol) were added 2-3 drops of trifluoroacetic acid. The reaction mixture was stirred at reflux for 2 hours and then concentrated under vacuum. The residue was dissolved in 5 mL toluene and concentrated again under vacuum. This was repeated for three times to completely remove all volatiles. The residue was dissolved in tetrahydrofuran (3 mL) and borane tetrahydrofuran complex (1M solution, 2.96 mL, 2.96 mmol) was added in portions at 0° C. The reaction mixture was stirred at 90° C. for 2 hours and the resulting brown solution was cooled down to 0° C. and 25% aqueous hydrochloric acid (1 mL) was added slowly. The mixture was stirred at 90° C. for 1 hour and then poured on 30 mL water and 30 mL ethyl acetate. Aqueous sodium hydroxide solution (25%, 2 mL) was added and the layers were separated. The aqueous layer was extracted a second time with 30 mL ethyl acetate. The organic layers were washed with 30 mL brine, dried over magnesium sulfate, filtered and concentrated under vacuum. The compound was purified by silica gel chromatography on a 20 g column using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate (100:0 to 0:100). Light yellow solid (119 mg, 37.6%). MS (ESI+): m/z=268.065 ([M+H]+).

reactant | 6-chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-ylamine | 1.18 mmol, 300 mg | ClC1=CC(=C(N=N1)N)C1=C(C=C(C=C1)F)OC | C11H9ClFN3O
reactant | trimethyl orthoformate | 9.46 mmol, 1.04 mL, 1.00 g | C(OC)(OC)OC | C4H10O3
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
catalyst | trifluoroacetic acid | 2-3 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
product | [6-Chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-yl]-methyl-amine | ClC1=CC(=C(N=N1)NC)C1=C(C=C(C=C1)F)OC | C12H11ClFN3O
